US08980937B2
Sodium tert-butoxide (0.3 g), Tris(dibenzylidene acetone)dipalladium(0) (chloroform adduct)(0.04 g) and xantphos (0.07 g) was added to the solution of 3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidine (0.59 g) and N-(4-bromo-2-methylbenzyl)acetamide (0.5 g) in toluene under argon atmosphere, and the mixture was heated with stirring at 80° C. for 5 hours. The reaction solution was diluted with t-butylmethylether and then washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled away under the reduced pressure, and the residue was then purified by silica gel chromatography to yield N-{4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-methylbenzyl}acetamide (0.6 g).

reactant | Sodium tert-butoxide | 0.3 g | CC(C)([O-])C.[Na+]
reactant | 3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidine | 0.59 g | ClC=1C=C(C=C(C1)Cl)C1(CNCC1)C(F)(F)F | C11H10Cl2F3N
reactant | N-(4-bromo-2-methylbenzyl)acetamide | 0.5 g | BrC1=CC(=C(CNC(C)=O)C=C1)C | C10H12BrNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
catalyst | xantphos | 0.07 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | N-{4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-methylbenzyl}acetamide | 0.6 g | ClC=1C=C(C=C(C1)Cl)C1(CN(CC1)C1=CC(=C(CNC(C)=O)C=C1)C)C(F)(F)F | C21H21Cl2F3N2O
